US08445684B2
3-[(2(S)-Azetidinyl)methoxy]-5-[(1R,2S)-2-(2-fluoroethyl)cyclopropyl]pyridine Hydrochloride
2M HCl (anhydrous) in ether (2.0 mL) was added to a stirred solution of 3-[[1-(tert-butoxycarbonyl)-2(S)-azetidinyl]methoxy]-5-[(1R,2S)-2-(2-fluoroethyl)cyclopropyl]pyridine (160 mg, 0.45 mmol) in dry MeOH (2.0 mL) at 0° C. The mixture was stirred at room temperature for 12 h. The above solution was concentrated and purified by HPLC to obtain the title compound (97 mg). 1H NMR (CD3OD, 400 MHz) δ 8.40 (br s, 1H), 8.29 (br s, 1H), 7.75 (s, 1H), 4.91-4.85 (m, 1H), 4.63-4.47 (m, 4H), 4.17-4.04 (m, 2H), 2.79-2.58 (m, 2H), 2.04-1.97 (m, 1H), 1.91-1.77 (m, 2H), 1.46-1.34 (m, 1H), 1.26-1.19 (m, 1H), 1.16-1.09 (m, 1H). MS (ESI) m/z 273 (M+Na+).

reactant | HCl | 2M | Cl | ClH
reactant | 3-[[1-(tert-butoxycarbonyl)-2(S)-azetidinyl]methoxy]-5-[(1R,2S)-2-(2-fluoroethyl)cyclopropyl]pyridine | 0.45 mmol, 160 mg | C(C)(C)(C)OC(=O)N1[C@@H](CC1)COC=1C=NC=C(C1)[C@H]1[C@@H](C1)CCF | C19H27FN2O3
solvent | ether | 2.0 mL | CCOCC | C4H10O
solvent | MeOH | 2.0 mL | CO | CH4O
product | 3-[(2(S)-Azetidinyl)methoxy]-5-[(1R,2S)-2-(2-fluoroethyl)cyclopropyl]pyridine Hydrochloride | 97 mg | Cl.N1[C@@H](CC1)COC=1C=NC=C(C1)[C@H]1[C@@H](C1)CCF | InChI=1S/C14H19FN2O.ClH/c15-3-1-10-6-14(10)11-5-13(8-16-7-11)18-9-12-2-4-17-12;/h5,7-8,10,12,14,17H,1-4,6,9H2;1H/t10-,12+,14-;/m1./s1
